US05336677
2-Methyl-6-pentafluoroethyl-4H-pyrimidin-4-one
A solution of Na (2.3 g, 0.1 mol) in EtOH (125 mL) was mixed with acetamidine hydrochloride (4.72 g, 50 mmol) and the reaction mixture was stirred for 15 min. Ethyl pentafluoropropionylacetate (11.7 g, 50 mmol) was added and the reaction mixture was refluxed for 6 h. The solvent was removed in vacuo, and the residue was taken up in H2O and acidified with dilute HCl to pH 2. The aqueous solution was extracted with EtOAc and the organic layer was dried over Na2SO4, then evaporated to afford 6 g of a yellowish solid. The crude product was purified by flash chromatography (CHCl3 containing MeOH 0% to 4%) to provide 2 g (17.5% yield) of a solid.

reactant | acetamidine hydrochloride | 50 mmol, 4.72 g | Cl.C(C)(=N)N
reactant | Ethyl pentafluoropropionylacetate | 50 mmol, 11.7 g | FC(C(=O)CC(=O)OCC)(C(F)(F)F)F | C7H7F5O3
solvent | EtOH | 125 mL | CCO | C2H6O
product | 2-Methyl-6-pentafluoroethyl-4H-pyrimidin-4-one | 6 g | CC1=NC(=CC(N1)=O)C(C(F)(F)F)(F)F | C7H5F5N2O
